US08633173B2
[5-(3-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-(3-methoxyphenyl)-amine was prepared from 5-(3-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (100 mg, 0.35 mmol) and 1-bromo-3-methoxy benzene (52 μL, 0.42 mmol) in a manner analogous to Example 77 to yield [5-(3-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-(3-methoxyphenyl)-amine (104 mg, 75%) as a yellow powder following purification on a 12 g Isco silica gel column using 0-5% methanol in dichloromethane as an eluent. MP=180° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.66 (s, 1H), 8.62 (m, 1H), 8.40 (d, J=8.0 Hz, 1H), 8.11 (d, J=8.0 Hz, 1H), 7.87 (t, J=16.1 Hz, 8.0 Hz, 1H), 7.68 (m, 2H), 7.32 (m, 2H), 7.25 (d, J=8.6 Hz, 1H), 7.15 (t, J=16.5 Hz, 8.0 Hz, 1H), 6.45 (dd, J=8.0 Hz, 2.7 Hz, 1H), 3.69 (s, 3H), 3.33 (s, 3H). MS=395 (MH)+.

reactant | 5-(3-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 0.35 mmol, 100 mg | CS(=O)(=O)C=1C=C(C=CC1)C1=CC=CC=2N1N=C(N2)N | C13H12N4O2S
reactant | 1-bromo-3-methoxy benzene | 0.42 mmol, 52 μL | BrC1=CC(=CC=C1)OC | C7H7BrO
product | [5-(3-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-(3-methoxyphenyl)-amine | 104 mg, 75% | CS(=O)(=O)C=1C=C(C=CC1)C1=CC=CC=2N1N=C(N2)NC2=CC(=CC=C2)OC | C20H18N4O3S
